US05530028
Preparation of 2-(3-Methoxyphenyl)-5,5-Dimethyloxazoline
To a 500 mL, 3-neck, round-bottom flask equipped with thermometer, condenser, addition funnel, and magnetic stirring, was added 43.2 g (253 mmoles) of m-anisoyl chloride in 500 mL of methylene chloride. The solution was cooled on ice and 2-methyl-2-aminopropanol (56.4 g, 60.4 mL, 633 mmoles) dissolved in 50 mL of methylene chloride was added slowly with stirring. The mixture was allowed to warm to room temperature and was stirred overnight. The solution was filtered from solids, and solvent was removed in vacuo. With ice cooling, thionyl chloride (90.8 g, 55.7 mL, 763 mmoles) was added to the remaining oil. The mixture was stirred for 1 hour at room temperature, and poured into 1 L of ether. The ether was decanted, and the remaining oil was carefully poured into 100 mL of 20% sodium hydroxide with ice cooling. After extraction several times with ether, the organic phases were combined, dried over magnesium sulfate, and solvent was removed in vacuo to yield a viscous yellow oil. The crude material was purified by column chromatography (1:1 ether:hexanes), or by distillation (5 mm Hg, b.p.=150° C.), to yield a low-melting solid.

reactant | m-anisoyl chloride | 253 mmoles, 43.2 g | C(C1=CC(=CC=C1)OC)(=O)Cl | C8H7ClO2
reactant | 2-methyl-2-aminopropanol | 633 mmoles, 60.4 mL, 56.4 g | CC(CO)(C)N | C4H11NO
reactant | thionyl chloride | 763 mmoles, 55.7 mL, 90.8 g | S(=O)(Cl)Cl | Cl2OS
reactant | ether | 1 L | CCOCC | C4H10O
reactant | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-Methoxyphenyl)-5,5-Dimethyloxazoline | COC=1C=C(C=CC1)C=1OC(CN1)(C)C | C12H15NO2
